US05039805
A solution of 3-(t-butoxycarbonyl)-N-[m-[p-[1-(methylthio)formimidoyl]benzamido]benzoyl]-L-alanine methyl ester hydroiodide in methanol is reacted with ammonium acetate in an analogous manner to that described in Example 33 B) h). There is obtained in 71% yield N-[m-(p-amidinobenzamido)benzoyl]-3-(t-butoxycarbonyl)-L-alanine methyl ester hydroiodide in the form of a colourless solid, m.p. 118°-120° C. (ether/isopropyl ether), MS: 469 (M+1)+.

reactant | 3-(t-butoxycarbonyl)-N-[m-[p-[1-(methylthio)formimidoyl]benzamido]benzoyl]-L-alanine methyl ester hydroiodide | I.COC([C@@H](NC(C1=CC(=CC=C1)NC(C1=CC=C(C=C1)C(=N)SC)=O)=O)CC(=O)OC(C)(C)C)=O
reactant | ammonium acetate | C(C)(=O)[O-].[NH4+]
reactant | ether isopropyl ether | CCOCC.C(C)(C)OC(C)C
solvent | methanol | CO | CH4O
product | N-[m-(p-amidinobenzamido)benzoyl]-3-(t-butoxycarbonyl)-L-alanine methyl ester hydroiodide | 71% yield | I.COC([C@@H](NC(C1=CC(=CC=C1)NC(C1=CC=C(C=C1)C(N)=N)=O)=O)CC(=O)OC(C)(C)C)=O | InChI=1S/C24H28N4O6.HI/c1-24(2,3)34-19(29)13-18(23(32)33-4)28-22(31)16-6-5-7-17(12-16)27-21(30)15-10-8-14(9-11-15)20(25)26;/h5-12,18H,13H2,1-4H3,(H3,25,26)(H,27,30)(H,28,31);1H/t18-;/m0./s1
